US05100897
2-n-Butyl-3-(2'-carboxybiphen-4-yl)methyl-5-carboxypyrimidin-4(3H)-one
The title compound is prepared from 2-butyl-3-(2'-carboxybiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one similarly to that in Example 9 by ester hydrolysis. The t-butyl ester is hydrolyzed in neat trifluoroacetic acid to give the title compound.

reactant | 2-butyl-3-(2'-carboxybiphen-4-yl)methyl-5-ethoxycarbonylpyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O)C(=O)OCC | C25H26N2O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-n-Butyl-3-(2'-carboxybiphen-4-yl)methyl-5-carboxypyrimidin-4(3H)-one | C(CCC)C1=NC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O)C(=O)O | C23H22N2O5
